US07884124B2
A mixture of methyl 4H-furo[3,2-b]pyrrole-5-carboxylate (5.00 g, 30.3 mmol) and KOH (3.40 g, 60.6 mmol) in DMF (100 mL) was cooled to −10° C. Iodine (7.31 g, 28.8 mmol) in DMF (40 mL) was charged via an addition funnel over 30 min. The resulting mixture was warmed to rt and stirred for additional 12 h. The reaction mixture was poured into water, adjusted with HCl (2 N) to pH 6-7, and extracted with EtOAc. The crude product was purified by flash chromatography (silica gel, 0 to 30% ethyl acetate in hexanes) to give a light tan solid methyl 6-iodo-4H-furo[3,2-b]pyrrole-5-carboxylate (3.85 g, 44% yield). 1H NMR (400 MHz, CDCl3) δ (ppm) 8.98 (br, s, 1H); 7.55 (d, J=2 Hz, 1H); 6.52 (d, J=2 Hz, 1H); 3.91 (s, 3H). MS (m/z 291).

reactant | methyl 4H-furo[3,2-b]pyrrole-5-carboxylate | 30.3 mmol, 5.00 g | O1C=CC=2NC(=CC21)C(=O)OC | C8H7NO3
reactant | KOH | 60.6 mmol, 3.40 g | [OH-].[K+]
reactant | Iodine | 28.8 mmol, 7.31 g | II | I2
reactant | HCl | 2 N | Cl | ClH
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 6-iodo-4H-furo[3,2-b]pyrrole-5-carboxylate | 3.85 g, 44% yield | IC=1C2=C(NC1C(=O)OC)C=CO2 | C8H6INO3
